US04782061
1-(Benzo[b]furan-7-yl)-4-(cyclopropylmethyl)piperazine hydrochloride
0.28 g Of lithium aluminum hydide were added in small portions to a solution of 5.8 mmol (1.56 g) of 1-(benzo[b]furan-7-yl)-4-(cyclopropylcarbonyl)piperazine in 30 ml of dry tetrahydrofuran. The mixture was stirred until the formation of gas stopped. After adding of 5 ml of water and 50 ml of 2N sodium hydroxide the reaction mixture was extracted and the organic layers were evaporated. Chromatographic purification on silica gel resulted in 1.0 g of a viscous substance, which was converted into the title compound by treatment with 1 equivalent of HCl. in ethyl acetate.

reactant | lithium aluminum | 0.28 g | [Al].[Li]
reactant | 1-(benzo[b]furan-7-yl)-4-(cyclopropylcarbonyl)piperazine | 5.8 mmol, 1.56 g | O1C2=C(C=C1)C=CC=C2N2CCN(CC2)C(=O)C2CC2 | C16H18N2O2
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
reactant | HCl | 1 equivalent | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 1-(Benzo[b]furan-7-yl)-4-(cyclopropylmethyl)piperazine hydrochloride | Cl.O1C2=C(C=C1)C=CC=C2N2CCN(CC2)CC2CC2 | InChI=1S/C16H20N2O.ClH/c1-2-14-6-11-19-16(14)15(3-1)18-9-7-17(8-10-18)12-13-4-5-13;/h1-3,6,11,13H,4-5,7-10,12H2;1H
